US08461157B2
Step 52a: (4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol (compound 0602-140)
The title compound, 0602-140 was prepared (670 mg, 94%) as an oil from (4-bromophenyl)methanol (0.56 g, 3 mmol), bis(pinacolato)diboron (1.14 g, 4.5 mmol), potassium acetate (1.32 g, 9 mmol), and PdCl2(dppf)2 (490 mg, 0.6 mmol) using a procedure similar to that described for compound 0602-107 (Example 34). LCMS: 217 [M-OH]+; 1HNMR (400 MHz, DMSO-d6) δ 1.28 (s, 12H), 4.51 (d, J=5.6 Hz 2H), 5.23 (t, J=6.0 Hz, 1H), 7.32 (d, J=8.0 Hz, 2H), 7.62 (d, J=7.6 Hz, 2H).

reactant | (4-bromophenyl)methanol | 3 mmol, 0.56 g | BrC1=CC=C(C=C1)CO | C7H7BrO
reactant | bis(pinacolato)diboron | 4.5 mmol, 1.14 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9 mmol, 1.32 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 | 0.6 mmol, 490 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CO)C | C13H19BO3
